### ISSUE TITLE
Suggest `positivity [h]` where `positivity` is preceded by `have := h` (and similar)

### ISSUE THREAD

**Issue by paulcadman** [mathlib-initiative/TaskList#53]
Detect patterns where a temporary anonymous hypothesis is added before a tactic that already accepts extra hypotheses (e.g `positivity`, `finiteness`, `grind` etc.).

e.g detect:

```lean
example (x : Nat) (hx : 0 < x) : 0 < x * x := by
  have := hx
  positivity
```

and replace with:

```lean
example (x : Nat) (hx : 0 < x) : 0 < x * x := by
  positivity [hx]
```

Originally suggested by @grunweg.
